US09120749B2
6-Bromo-4-chloro-3-(methylsulfonyl)quinoline
6-Bromo-3-(methylsulfonyl)quinolin-4-ol (573 mg, 1.90 mmol) was added to phosphoryl chloride (19 mL) and the reaction was stirred at 100° C. 16 h. Additional THF (5 mL) was added and the reaction mixture was stirred at 100° C. for 4 h. The reaction mixture was cooled and slowly poured into a 2:1 solution of satd. aq sodium bicarbonate/ethyl acetate that was pre-cooled to 0° C. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with satd. aq.sodium bicarbonate, dried over anhydrous sodium sulfate, filtered, and concentrated to afford the desired product (360 mg, 59%) as a white solid: ESI MS m/z 321 [C10H7BrClNO2S+H]+.

reactant | 6-Bromo-3-(methylsulfonyl)quinolin-4-ol | 1.90 mmol, 573 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)O | C10H8BrNO3S
reactant | phosphoryl chloride | 19 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate ethyl acetate | C([O-])(O)=O.[Na+].C(C)(=O)OCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4-chloro-3-(methylsulfonyl)quinoline | 360 mg, 59% | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)Cl | C10H7BrClNO2S
